US07696200B2
Reaction of 7-chloro-3-(5-chloro-2-methoxy-benzenesulfonyl)-2,3-dihydro-benzooxazole-5-carboxylic acid with ethyl 4-aminobenzoate in analogy with example 30, step 4 gave 4-{[7-chloro-3-(5-chloro-2-methoxy-benzenesulfonyl)-2,3-dihydro-benzooxazole-5-carbonyl]-amino}-benzoic acid ethyl ester. Light yellow solid, MS (ISP)=551.1 (M+H)+.

reactant | 7-chloro-3-(5-chloro-2-methoxy-benzenesulfonyl)-2,3-dihydro-benzooxazole-5-carboxylic acid | ClC1=CC(=CC=2N(COC21)S(=O)(=O)C2=C(C=CC(=C2)Cl)OC)C(=O)O | C15H11Cl2NO6S
reactant | ethyl 4-aminobenzoate | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
product | 4-{[7-chloro-3-(5-chloro-2-methoxy-benzenesulfonyl)-2,3-dihydro-benzooxazole-5-carbonyl]-amino}-benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)NC(=O)C=1C=C(C2=C(N(CO2)S(=O)(=O)C2=C(C=CC(=C2)Cl)OC)C1)Cl)=O | C24H20Cl2N2O7S
